US08563735B2
(S)-3-(benzyloxycarbonylamino)-3-(thiophen-2-yl)propanoic acid
(S)-3-amino-3-(thiophen-2-yl)propanoic acid (0.894 g) and benzyloxycarbonyl chloride 0.980 g) were stirred in 2M NaOH (8 mL) and dioxane (26 mL) at 0° C. for 24 hours. The reaction mixture was acidified with concentrated aqueous HCl, extracted twice with ethyl acetate, and the extracts were dried over MgSO4, filtered, concentrated, and chromatographed on silica gel with 50% ethyl acetate/hexanes.

reactant | (S)-3-amino-3-(thiophen-2-yl)propanoic acid | 0.894 g | N[C@@H](CC(=O)O)C=1SC=CC1 | C7H9NO2S
reactant | benzyloxycarbonyl chloride | 0.980 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | dioxane | 26 mL | O1CCOCC1 | C4H8O2
reactant | HCl | Cl | ClH
solvent | NaOH | 2M, 8 mL | [OH-].[Na+]
product | (S)-3-(benzyloxycarbonylamino)-3-(thiophen-2-yl)propanoic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(=O)O)C=1SC=CC1 | C15H15NO4S
